US05152999
To a suspension of glycine (1.50 g) in water (100 ml) was added triethylamine (4.04 g). After dioxan (200 ml) and cholesteryl chloroformate (8.98 g) were added to the resulting clear solution at 0° C., the mixture was stirred for 3 hours. The reaction mixture was concentrated under reduced pressure and, 1 N hydrochloric acid (23 ml) and chloroform (100 ml) were added to the residue. The organic phase was separated and washed with water and then dried over magnesium sulfate. The solvent was distilled off to give crude crystals. After washing with ethanol, the crystals were filtered to give N-(cholest-5-ene-3β-oxycarbonyl)glycine (6.64 g) as white crystals.

reactant | glycine | 1.50 g | NCC(=O)O | C2H5NO2
reactant | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
reactant | dioxan | 200 ml | O1CCOCC1 | C4H8O2
reactant | cholesteryl chloroformate | 8.98 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
solvent | water | 100 ml | O | H2O
product | N-(cholest-5-ene-3β-oxycarbonyl)glycine | 6.64 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCC(=O)O | C30H49NO4
